US08067445B2
Step 7: 2-{2′-[(Acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid
To 2-{2′-[(acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid ethyl ester (0.290 g, 0.63 mmol) in THF (2.6 mL) and EtOH (2 mL) was added 1N aqueous NaOH (1.9 mL), and the reaction was stirred at 50° C. overnight. Analytical LCMS indicated that starting material was still present, so additional 1N aqueous NaOH (1 mL) was added, and the reaction was stirred at 70° C. for 2 hours. Additional 1N aqueous NaOH (1 mL) was added, and the reaction was stirred for another 6 hours. The mixture was worked-up with CH2Cl2 and 1N aqueous HCl, and the organic layer was dried over Na2SO4, decanted, and concentrated. The residue was purified by preparative HPLC to give the title compound. M+H is 438.

reactant | 2-{2′-[(acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid ethyl ester | 0.63 mmol, 0.290 g | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C25H30F3NO4
reactant | NaOH | 1N, 1.9 mL | [OH-].[Na+]
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-{2′-[(Acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-2-methyl-propionic acid | C(C)(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)C(C(=O)O)(C)C | C23H26F3NO4
